US06093732
7-(Benzylsulfanyl)-N-(4-chlorobenzyl)-4-hydroxy-3-quinolinecarboxamide
A mixture of 4.07 g of ethyl 7-(benzylsulfanyl)-4-hydroxy-3-quinolinecarboxylate from Preparation No. 29 and 8.5 g of 4-chlorobenzylamine is heated at 165° C. for 18 h, then cooled and partitioned between 1 N HCl and chloroform-methanol. The organic phase is dried (MgSO4) and concentrated under reduced pressure, and the residue flash chromatographed on silica using 2-5% methanol in dichloromethane to provide 4.82 g of the title compound.

reactant | ethyl 7-(benzylsulfanyl)-4-hydroxy-3-quinolinecarboxylate | 4.07 g | C(C1=CC=CC=C1)SC1=CC=C2C(=C(C=NC2=C1)C(=O)OCC)O | C19H17NO3S
reactant | 4-chlorobenzylamine | 8.5 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | 7-(Benzylsulfanyl)-N-(4-chlorobenzyl)-4-hydroxy-3-quinolinecarboxamide | 4.82 g | C(C1=CC=CC=C1)SC1=CC=C2C(=C(C=NC2=C1)C(=O)NCC1=CC=C(C=C1)Cl)O | C24H19ClN2O2S
